US03965102
To a slurry of 15 g lithium aluminum hydride in 800 ml. ether and 400 ml. dioxane is added 15 g (0.041 moles) 1,2,3,4,6,7,8,8a-octahydro-6-(p-methoxyphenyl)-2-methyl-7,8-isoquinoline-dicarboxylic acid anhydride hydrochloride slowly with stirring under nitrogen. This mixture is refluxed ovenight. Saturated potassium carbonate solution is added until the solution is white. This is filtered and washed with hot dioxane. The organics are combined and evaporated to yield 7.9 g (61%) crude 1,2,3,4,6,7,8,8a-octahydro-6-(p-methoxyphenyl)-2-methyl-7,8-isoquinolinedimethanol. The oil is crystallized from ethyl acetate, and recrystallization of 2 g from ethyl acetate gives an analytical sample, 1.7 g, mp 169°-171°C.

reactant | lithium aluminum hydride | 15 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | CCOCC | C4H10O
reactant | 1,2,3,4,6,7,8,8a-octahydro-6-(p-methoxyphenyl)-2-methyl-7,8-isoquinoline-dicarboxylic acid anhydride hydrochloride | 0.041 moles, 15 g | Cl.COC1=CC=C(C=C1)C1C=C2CCN(CC2C2C1C(=O)OC2=O)C
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1,2,3,4,6,7,8,8a-octahydro-6-(p-methoxyphenyl)-2-methyl-7,8-isoquinolinedimethanol | 7.9 g, 61% | COC1=CC=C(C=C1)C1C=C2CCN(CC2C(C1CO)CO)C | C19H27NO3
